US04945092
82.5 g (325 mmol) of 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid, 32.5 g (325 mmol) of piperazin-2-one (ketopiperazine) and 100.8 g (325 mmol) of freshly distilled triphenyl phosphite are melted at 180°. The whole is allowed to cool to 130° and left to stand for 5 hours. The solidified reaction mass is cooled to room temperature and stirred for 1 hour with 300 ml of dichloromethane. The whole is filtered with suction, washed three times with 150 ml of dichloromethane each time and allowed to dry in the air. 1-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-ylacetyl]-3-oxopiperazine having a melting point of 208°-210° is obtained and can be purified further by dissolving in 200 ml of hot acetic acid, adding 800 ml of water and crystallising in an ice bath.

reactant | 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid | 325 mmol, 82.5 g | ClC1=CC=C(C=C1)C1CC(N(C1)CC(=O)O)=O | C12H12ClNO3
reactant | piperazin-2-one | 325 mmol, 32.5 g | N1C(CNCC1)=O | C4H8N2O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 1-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-ylacetyl]-3-oxopiperazine | ClC1=CC=C(C=C1)C1CC(N(C1)CC(=O)N1CC(NCC1)=O)=O | C16H18ClN3O3
